US06288096B1
5.31 g (16.6 mmole) 3-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate, 2.13 g (18.2 mmole) 2,4-thiazolidinedione, 0.5 ml piperidine and 0.5 ml acetic acid in 300 ml toluene were refluxed with water separation in a Dean-Stark apparatus for 4 hours. The solvent was evaporated, acetic acid was added and the mixture was heated. The formed precipitate was filtered off and washed with diethyl ether to give 3.6 g (yield 51%) of 5-(4-[2-(3-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | 3-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate | 16.6 mmole, 5.31 g | CS(=O)(=O)OC1=CC(=CC=C1)CCOC1=CC=C(C=C1)C=O | C16H16O5S
reactant | 2,4-thiazolidinedione | 18.2 mmole, 2.13 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(4-[2-(3-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 3.6 g, yield 51% | CS(=O)(=O)OC=1C=C(C=CC1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H17NO6S2
